US04640916
To a solution of 6.26 g of 2-aminothiophenol in 50 ml of dimethylformamide was added 9.85 g of 2-bromo 5-hydroxyvaleric acid. The mixture was stirred at room temperature for 2 hours and at 100° C. for 1 hour. The reaction solution was cooled, poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and then concentrated under reduced pressure. The concentrate was subjected to a column chromatography on silica-gel (200 g). From the eluate with hexane-acetone (2:1, v/v) was obtained 3.7 g (31.6%) of 2-(3-hydroxypropyl)-2H-1,4-benzothiazin-3(4H)-one as crystals. Recrystallization from ethyl acetate-hexane gave prisms, m.p. 59°-60° C.

reactant | 2-aminothiophenol | 6.26 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | 2-bromo 5-hydroxyvaleric acid | 9.85 g | BrC(C(=O)O)CCCO | C5H9BrO3
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(3-hydroxypropyl)-2H-1,4-benzothiazin-3(4H)-one | 3.7 g, 31.6% | OCCCC1SC2=C(NC1=O)C=CC=C2 | C11H13NO2S
